US05712297
B. 3-(4-hexyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridine iodide
A mixture of methyl iodide (0.5 ml, 7.5 mmol) and 3-(4-hexyloxy-1,2,5-thiadiazol-3-yl)pyridine (658 mg, 2.5 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 0.81 g (80%).

reactant | methyl iodide | 7.5 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-hexyloxy-1,2,5-thiadiazol-3-yl)pyridine | 2.5 mmol, 658 mg | C(CCCCC)OC=1C(=NSN1)C=1C=NC=CC1 | C13H17N3OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-hexyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridine iodide | [I-].C(CCCCC)OC=1C(=NSN1)C=1CN(C=CC1)C | InChI=1S/C14H21N3OS.HI/c1-3-4-5-6-10-18-14-13(15-19-16-14)12-8-7-9-17(2)11-12;/h7-9H,3-6,10-11H2,1-2H3;1H/p-1
